US04303660
1-Nitro-5-undecyl-5,6-dihydropyrazolo[1,5-c]quinazoline is treated with acetic anhydride as described in Example 27 to give 1-nitro-5-undecyl-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline. M.p.: 83°-85° C. Yield: 85%.

reactant | 1-Nitro-5-undecyl-5,6-dihydropyrazolo[1,5-c]quinazoline | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)CCCCCCCCCCC | C21H30N4O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-nitro-5-undecyl-6-acetyl-5,6-dihydropyrazolo[1,5-c]quinazoline | Yield: 85% | [N+](=O)([O-])C=1C=NN2C(N(C=3C=CC=CC3C21)C(C)=O)CCCCCCCCCCC | C23H32N4O3
